US08604069B2
(A-75-18) 4-(2-chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoic acid
tert-Butyl 4-(2-chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoate (122 mg) and water (0.7 mL) were mixed. To the mixture was added a solution of 25 w/w % hydrogen bromide in acetic acid (1.4 mL) at ice temperature. After stirring at RT for 2 hr, aqueous 4 N sodium hydroxide (1.65 mL) was added to the reaction mixture at ice temperature. The mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: methanol/chloroform/acetic acid=1/20/0.1) to give the title compound (56.7 mg). The title compound was analyzed using a chiral column. The retention time of the title compound was 8.2 min., and the optical purity thereof was 90.5% ee.

reactant | tert-Butyl 4-(2-chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoate | 122 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(CC)CC | C32H45ClN2O4
reactant | water | 0.7 mL | O | H2O
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | 4 N, 1.65 mL | [OH-].[Na+]
solvent | acetic acid | 1.4 mL | C(C)(=O)O | C2H4O2
product | 4-(2-chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoic acid | 56.7 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CC(=O)O)C1=NOC(=C1C1CC1)C1CC(C1)CC(CC)CC | C28H37ClN2O4
